US06693123B2
To a solution in toluene (25 mL) of 4-bromomethyl-2-phenoxybenzoic acid methyl ester (3.37 g), prepared as in Example 157E, was added 18-crown-6 (0.52 g) and the potassium 3-pyridyloxide (2.20 g). The reaction mixture was heated at 70° C. for 1 hour during which time a black, insoluble tar formed. The reaction mixture was cooled to ambient temperature and diluted with toluene. The toluene was decanted from the tar and the tar was dissolved in 1:1 THF-water (20 mL). The aqueous THF was added to the toluene and the mixture was washed twice with brine, dried over Na2SO4, filtered, and concentrated in vacuo to give a black oil. Chromatography on silica gel (1:1 ethyl acetate-hexanes) gave 4-(3-pyridyloxymethyl)-2-phenoxybenzoic acid methyl ester (2.47 g).

reactant | 4-bromomethyl-2-phenoxybenzoic acid methyl ester | 3.37 g | COC(C1=C(C=C(C=C1)CBr)OC1=CC=CC=C1)=O | C15H13BrO3
reactant | 18-crown-6 | 0.52 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium 3-pyridyloxide | 2.20 g | N1=CC(=CC=C1)OC=1C=NC=CC1.[K]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-pyridyloxymethyl)-2-phenoxybenzoic acid methyl ester | 2.47 g | COC(C1=C(C=C(C=C1)COC=1C=NC=CC1)OC1=CC=CC=C1)=O | C20H17NO4
